US07045626B2
Preparation 1: 3-Acetylthiomethylquinoline
3-Chloromethylquinoline hydrochloride—3-Quinolylmethanol (9.85 g) was taken up in dry benzene (200 ml) and stirred followed by the addition of thionyl chloride (14.69 ml). An immediate yellow precipitate was obtained. Stirring was maintained at rt for 2 h. A light yellow solid was filtered off and dried to give the subtitle compound (13 g).

reactant | 3-Chloromethylquinoline hydrochloride 3-Quinolylmethanol | 9.85 g | Cl.ClCC=1C=NC2=CC=CC=C2C1.N1=CC(=CC2=CC=CC=C12)CO
reactant | thionyl chloride | 14.69 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-Acetylthiomethylquinoline | 13 g | C(C)(=O)SCC=1C=NC2=CC=CC=C2C1 | C12H11NOS
